2116-09-13 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 47 yo female with hx of breast cancer, admitted for
   management of pericardial effusion.
   24 Hour Events:
   Effusion drained in cath lab.
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-9-13**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 109 (100 - 123) bpm
   BP: 93/62(69) {93/62(69) - 149/125(129)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    360 mL
                                                                    240 mL
   PO:
                                                                    360 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    460 mL
                                                                    780 mL
   Urine:
   380 mL
   NG:
   Stool:
   Drains:
                                                                    460 mL
                                                                    400 mL
   Balance:
                                                                   -100 mL
                                                                   -540 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   NECK: JVP elevated to mandible.
   CARDIAC: Distant heart sounds. No murmurs, ? pericardial friction rub,
   serosanguinous fluid from drain.
   LUNGS: Decreased frequency of coughing, wheezing improved since
   yesterday.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Pedal edema 1+ pitting.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   247 K/uL
   15.7 g/dL
   122 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.4 mEq/L
   18 mg/dL
   105 mEq/L
   141 mEq/L
   48.6 %
   7.0 K/uL
        [image002.jpg] pericardial fluid: tot prot 4.6, gluc 64, LDH [**2085**],
   amylase 11, Alb 3.3, WBC 356, HCt 17.0
                            [**2116-9-13**]  04:01 AM
   WBC
   7.0
   Hct
   48.6
   Plt
   247
   Cr
   0.8
   Glucose
   122
   Assessment and Plan
   ASSESSMENT AND PLAN: 47 year old female PMH breast cancer who presents
   with 1 month history of dyspnea on exertion, orthopnea; 1 week history
   of pleuritic chest pain and 1 day history of bilateral lower extremity
   edema.
   .
   # Pericardial effusion: drained in cath lab on [**9-12**], drain placed
   yesterday, currently draining to gravity.  Appears to be exudative at
   this point, cytology pending.
   - f/u cytology
   - Avoid anticoagulants for now
   - Indomethacin/percocet for pain control
   - continue drain until ouput is <50-100 cc/day
   .
   # CORONARIES: CAD risk factors of HTN and smoking. Pleuritic chest pain
   does not support angina or ACS. No prior history of CAD.
   - Smoking cessation education
   - Hold lisinopril for now, will restart on discharge if indicated.
   .
   # PUMP: No history of congestive heart failure. See treatment of
   tamponade above.  Aim for Is=Os today.
   .
   # RHYTHM: Sinus.
   .
   # Asthma: Significant wheezing on exam, but has improved since
   yesterday. CXR reports atelectasis vs early pneumonia in the right
   middle lobe.
   - Culture sputum
   - Albuterol NEBs
   - Ipratropium NEBs
   - Continue outpatient singulair
   - If spikes or has leukocytosis consider CAP coverage, no antibiotics
   for now
   .
   # Breast Cancer: According to patient she is in remission. However,
   patient has missed multiple appointments and did not follow-up with her
   oncologist. Patient's last appointment [**2115-1-30**] reports she is to
   continue Aromasin (aromotase inhibitor) which she is currently not
   taking and is over due for mammogram. Weight loss and effusion
   unfortunately suggest breast cancer recurrence. Patient's oncologist is
   no longer at [**Hospital1 1**].   Pt was made aware of the fact that this recent
   episode could represent progression of her disease
   - send pericardial effusion for cytology
   -oncology consult
   .
   # Depression: Continue outpatient trazadone 200 mg qhs.
   .
   # Social: Patient currently lives in rooming house. Reports stresses at
   home. Has not followed with medical care (multiple do not show
   appointments).
   - Social Work consult
   .
   ICU Care
   Nutrition: Regular
   Glycemic Control:  not indicated
   Lines:
   18 Gauge - [**2116-9-12**] 06:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments: Patient and husband.
   [**Name (NI) 129**] status: Full
   Disposition: CCU for now
   ------ Protected Section ------
   CCU ATTENDING PROGRESS NOTE
   I have reviewed the comprehensive Progress Note today by Dr. [**First Name (STitle) 3099**] and
   was present for the pertinent portions of the physical examination.   I
   concur with the history, physical, and assessment and plan as outline
   in the admission note.
   History:   Per Dr. [**First Name (STitle) 3099**]
s note.  Her cough and dyspnea was improved
   after pericardiocentesis.
   Physical Examination:   Per Dr. [**First Name (STitle) 3099**]
s note.  She remains slightly
   tachycardic (90-100s) but has maintained a BP > 100 systolic
   Medical Decision Making:   Ms. [**Known lastname 8662**] is a 47 year old woman who has
   a history of breast cancer twice previously who presents with weight
   loss, peripheral edema, and cough/shortness of breath increasing over
   the last 2 months.  Her condition has worsened more recently with
   increasing cough.   An echocardiogram showed a large pericardial
   effusion with RV collapse.  Pericardiocentesis removed 500 of blood
   fluid consistent with an exudate and right heart catheterization after
   the procedure showed persistent elevations of her right heart pressures
   consistent with an effusive-constrictive etiology.
   Over the past 12 hours, she reports marking improvement in her
   breathing and cough, but the cough does persistent after deep
   inspiration.  She has pericardial pain and we will begin indomethocin
   as the preferred NSAIA.  There has been continue serous drainage from
   the pericardial drain and an echocardiogram has shown a small rim of
   anterior fluid (without diastolic collapse of the RV).   We will
   continue the drain in place until the output is < 50 mm per day.
   Hematology-oncology will be consulted today for recommendations.
   The management has been discussed with the patient and family.
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**]  [**Pager number 8663**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2116-9-13**] 13:23 ------

2116-09-16 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Complains of coughing and wheezing
   -Constipated
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-9-15**] 05:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-9-16**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (96.9
   HR: 97 (87 - 107) bpm
   BP: 98/71(77) {92/60(67) - 137/94(102)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,270 mL
                  PO:
                                                                  1,220 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    350 mL
   Urine:
                                                                  1,690 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
   Balance:
                                                                   -470 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 1.5L
   SpO2: 94%
   ABG: ////
   Physical Examination
   GEN:  Alert, interactive, NAD
   CARDIAC: RRR. No murmurs, no pericardial friction rub, serosanguinous
   fluid from drain.
   LUNGS: Inspiratory and expiratory wheezes b/l, more prominent
   anteriorly, no rales.
   ABDOMEN: Soft, NT/ND.
   EXTREMITIES: No pitting edema.
   Labs / Radiology
   303 K/uL
   15.5 g/dL
   124 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.5 mEq/L
   17 mg/dL
   105 mEq/L
   138 mEq/L
   45.9 %
   7.1 K/uL
        [image002.jpg]
                            [**2116-9-13**]  04:01 AM
                            [**2116-9-14**]  04:43 AM
                            [**2116-9-15**]  04:06 AM
                            [**2116-9-16**]  05:52 AM
   WBC
   7.0
   5.1
   5.4
   7.1
   Hct
   48.6
   43.7
   41.4
   45.9
   Plt
   247
   254
   265
   303
   Cr
   0.8
   0.8
   0.8
   Glucose
   122
   112
   124
   Other labs: Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: Pericardial fluid cytology:
   Adenocarcinoma
   Assessment and Plan
 47 year old female PMH breast cancer who presents with bilateral
   lower extremity edema of 1 day duration, found to have pericardial
   effusion.
   .
   # Pericardial effusion: drained in cath lab on [**9-12**], currently
   draining to gravity.  Appears to be exudative at this point, cytology
   significant for adenocarcinoma.  Acid fast stain negative.  CT surgery
   following, will likely do pericardial window tomorrow.
   - f/u CT surgery recs
   - Avoid anticoagulants while drain is in place
   - Will likely pull drain today
   - Continue Indomethacin/percocet for pain control
   - CT torso today with prep for allergy to eval recurrence of maligancy
   as possible etiology of effusion
   - Family meeting at 2pm
   .
   # CORONARIES: CAD risk factors of HTN and smoking. Pleuritic chest pain
   does not support angina or ACS. No prior history of CAD.   Lisinopril
   dc
d given normotensive.
   - Smoking cessation education
   .
   # PUMP: No history of congestive heart failure. See treatment of
   tamponade above.  Aim for Is=Os today.
   .
   # RHYTHM: NSR with occasional PVCs. Monitor on telemetry.
   .
   # Breast Cancer: According to patient she is in remission. However,
   patient has missed multiple appointments and did not follow-up with her
   oncologist. Patient's last appointment [**2115-1-30**] reports she is to
   continue Aromasin (aromotase inhibitor) which she is currently not
   taking and is over due for mammogram. Weight loss and effusion
   unfortunately suggest breast cancer recurrence. Patient's oncologist is
   no longer at [**Hospital1 1**].   Pt was made aware of the fact that this recent
   episode could represent progression of her disease.  Appreciate
   oncology consult.  Cytology significant for adenocarcinoma as above.
   - CT torso this AM, with prep as pt is allergic to contrast
   -will f/u with oncology re: cytology and CT results
   .
   # Asthma: Significant wheezing on exam on admission, but has since
   improved. CXR reports atelectasis vs early pneumonia in the right
   middle lobe, but no evidence of infection and afebrile.  Also likely
   COPD given smoking history and lung volumes on CXR.
   - Continue Ipratropium NEBs standing; Albuterol NEBs prn
   - Continue outpatient singulair
   - If spikes or has leukocytosis consider CAP coverage, no antibiotics
   for now
   .
   # Depression/Insomnia: Continue outpatient trazadone 200 mg qhs.
   .
   # Social: Patient currently lives in rooming house. Reports stresses at
   home. Has not followed with medical care (multiple do not show
   appointments).
   - Social Work consult
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2116-9-16**] 06:18 AM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition:  Call out to floor after drain removal
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   Medical Decision Making
   Likely metastatic disease to pericardial space.  Plan for pericardial
   window.  OK to pull drain today.  Clinical Care time 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2116-9-16**] 12:36 ------

2116-09-17 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: SOB/cough, pericarditis
   24 Hour Events:
   -pericardial drain pulled in afternoon [**9-16**]
   -thoracentesis on R done in afternoon (fluid sent)
   -NPO post MN for window by t-[**Doctor First Name **] on [**9-17**] (2 units crossed)
   -thoracic [**Doctor First Name **]: [**9-17**] - add on for L VATS/pericardial window, possible
   talc pleuradesis
   -family meeting, told pt and family diagnosis, need for onc f/u, sw
   involved
   -onc wants bone scan (inpatient or outpatient, whatever's easier, not a
   #1 priority as inpatient), onc will setup follow-up for outpatient
   oncologist, 2 tumor markers added onto labwork for them
   -constipated
   -restarted lisinopril (takes 20mg at home, but wrote her only for 10mg
   daily for now)
   -final read on CT torso:
   1. Large nonhemorrhagic bilateral pleural effusion with adjacent
   compressive atelectasis. No pulmonary lesion, however evaluation
   limited by atelectasis.
   2. Pericardial drain in place.
   3. Multiple new scattered sclerotic lesion throughout the thoracolumbar
   spine compatible with osseous metastases.
   4. New 5-mm nodular soft tissue in the anterior mediastinum since [**2111-12-29**]. Metastasis not excluded.
   5. Left mastectomy.
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2116-9-16**] 01:10 PM
   Heparin Sodium (Prophylaxis) - [**2116-9-16**] 06:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-9-17**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 94 (94 - 117) bpm
   BP: 115/91(96) {108/27(48) - 146/115(119)} mmHg
   RR: 21 (14 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,480 mL
                  PO:
                                                                  1,480 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,225 mL
                                                                    700 mL
   Urine:
                                                                  1,425 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -745 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   GEN: lying comfortably in bed, NAD, sleepy
   HEENT: MMM
   CV: RRR, no MRG, no friction rub, no drain in place
   PULM: CTAB anteriorly, no chough, breathing comfortably
   ABD: soft, somewhat distended, mild pain with palpation throughout
   Labs / Radiology
   322 K/uL
   13.3 g/dL
   117 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.4 mEq/L
   24 mg/dL
   104 mEq/L
   136 mEq/L
   40.3 %
   8.2 K/uL
        [image002.jpg]
                            [**2116-9-13**]  04:01 AM
                            [**2116-9-14**]  04:43 AM
                            [**2116-9-15**]  04:06 AM
                            [**2116-9-16**]  05:52 AM
                            [**2116-9-17**]  04:56 AM
   WBC
   7.0
   5.1
   5.4
   7.1
   8.2
   Hct
   48.6
   43.7
   41.4
   45.9
   40.3
   Plt
   247
   254
   265
   303
   322
   Cr
   0.8
   0.8
   0.8
   0.7
   0.8
   Glucose
   122
   112
   124
   125
   117
   Other labs: PT / PTT / INR:10.7/35.2/0.9, ALT / AST:16/24, Alk Phos / T
   Bili:83/0.3, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 47 year old female PMH breast cancer who presents with bilateral
   lower extremity edema of 1 day duration, found to have pericardial
   effusion.
   .
   # Pericardial effusion: Drain placed on [**9-12**], fluid showed
   adenocarcinoma.  The drain was pulled on [**9-17**] after output decreased.
   Pt to go to CT [**Doctor First Name **] for window procedure today.  Pt has been in NSR
   since admission (with occ PVCs).  Fluid overload has improved since
   draining of effusion
   - Continue Indomethacin/percocet for pain control
   - To CT today, NPO for procedure
   .
   # CORONARIES: CAD risk factors of HTN and smoking. Pleuritic chest pain
   does not support angina or ACS. No prior history of CAD.   Lisinopril
   restarted for hypertension yesterday at
 home dose.
   .
   # Breast Cancer: Pt has been non-compliant with onc f/u.  Patient's
   last appointment [**2115-1-30**] reports she is to continue Aromasin
   (aromotase inhibitor) which she is currently not taking.  We now have
   evidence of metastatic spread of her tumor with pleural effusion
   showing adenocarinoma and evidence of bony mets to the spine by CT.
   Also concern for malignant pleural effustions.  Appreciate oncology
   consult.
   -will obtain bone scan non-urgently
   -f/u onc recs
   -will add serum LDH, protein on to AM labs to help determine if pleural
   effusion is exudative/transudative.
   .
   # Asthma: Significant wheezing on exam on admission, but has since
   improved. CXR reports atelectasis vs early pneumonia in the right
   middle lobe, but no evidence of infection and afebrile.  Also likely
   COPD given smoking history and lung volumes on CXR.
   - Continue Ipratropium NEBs standing; Albuterol NEBs prn
   - Continue outpatient singulair
   - If spikes or has leukocytosis consider CAP coverage, no antibiotics
   for now
   .
   # Depression/Insomnia: Continue outpatient trazadone 200 mg qhs.
   .
   # Constipation: suspect this is the cause of abd discomfort, slight
   tenderness to palpation.  No BM in last several days.  Will up-titrate
   bowel regimen as needed.
   .
   # Social: Patient currently lives in rooming house. Reports stresses at
   home. Has not followed with medical care (multiple do not show
   appointments).  Appreciate SW consult .
   ICU Care
   Nutrition: NPO for procedure
   Glycemic Control:  N/A
   Lines:
   20 Gauge - [**2116-9-16**] 06:18 AM
   Prophylaxis:
   DVT: heparin, pneumoboots
   Stress ulcer: n/a
   VAP:
   Comments:
   Communication:  Comments: with pt and husband
   [**Name (NI) 129**] status: Full
   Disposition: CCU for now
   ------ Protected Section ------
   CCU ATTENDING PROGRESS NOTE
   I have reviewed the comprehensive Progress Note today by Dr. [**First Name (STitle) 3099**].  I
   concur with the history, physical, and assessment and plan as outline
   in the admission note.    My examination today is consistent with the
   documented examination.
   History:   Per Dr. [**First Name (STitle) 3099**]
s note.  The patient remains weak but her
   appetite is good.
   Physical Examination:   Per Dr. [**First Name (STitle) 3099**]
s note.
   Medical Decision Making:   Ms. [**Known lastname 8662**] is a 47 year old woman who has
   a history of breast cancer twice previously who presents with weight
   loss, peripheral edema, and cough/shortness of breath increasing over
   the last 2 months.  Her condition has worsened more recently with
   increasing cough.   An echocardiogram showed a large pericardial
   effusion with RV collapse.  Pericardiocentesis removed 500 of blood
   fluid consistent with an exudate and right heart catheterization after
   the procedure showed persistent elevations of her right heart pressures
   consistent with an effusive-constrictive etiology.
   The cytology has shown adenocarcinoma.  She has undergone right
   thoracentesis and the plan today is to perform a pericardial window
   with left thoracostomy drainage.
   The total time of this visit was 40 minutes with over 50% of the time
   spent on coordination of care and discussions with the patient.
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**]  [**Pager number 8663**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2116-9-17**] 16:35 ------

2116-09-18 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: pericardial effusion
   24 Hour Events:
 ARTERIAL LINE - START [**2116-9-17**] 02:10 PM
   -Pericardial window, talc pleurodesis yesterday by CT [**Doctor First Name **]
   -Dilaudid IV standing and prn for pain, switched to PO this AM
   -Increased bowel regimen for constipation
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-9-17**] 04:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-9-18**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 109 (94 - 124) bpm
   BP: 86/64(73) {73/46(56) - 160/115(128)} mmHg
   RR: 18 (11 - 25) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
             Total In:
                                                                    820 mL
                                                                    457 mL
   PO:
                                                                    270 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    550 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    700 mL
   Urine:
                                                                  1,200 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -540 mL
                                                                   -243 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///31/
   Physical Examination
   GEN: lying comfortably in bed, NAD, sleepy
   HEENT: MMM
   CV: RRR, no MRG, no friction rub, [**Doctor Last Name 279**] drain x2 in place
   PULM: CTAB anteriorly, no chough, breathing comfortably
   ABD: soft, somewhat distended, mild pain with palpation throughout
   EXT: WWP 1+bilateral edema
   Labs / Radiology
   312 K/uL
   13.2 g/dL
   130 mg/dL
   0.9 mg/dL
   31 mEq/L
   5.2 mEq/L
   23 mg/dL
   102 mEq/L
   137 mEq/L
   39.3 %
   8.8 K/uL
        [image002.jpg]
                            [**2116-9-13**]  04:01 AM
                            [**2116-9-14**]  04:43 AM
                            [**2116-9-15**]  04:06 AM
                            [**2116-9-16**]  05:52 AM
                            [**2116-9-17**]  04:56 AM
                            [**2116-9-18**]  04:50 AM
   WBC
   7.0
   5.1
   5.4
   7.1
   8.2
   8.8
   Hct
   48.6
   43.7
   41.4
   45.9
   40.3
   39.3
   Plt
   247
   254
   265
   [**Telephone/Fax (3) 8751**]
   Cr
   0.8
   0.8
   0.8
   0.7
   0.8
   0.9
   Glucose
   122
   112
   124
   125
   117
   130
   Other labs: PT / PTT / INR:10.7/35.2/0.9, ALT / AST:16/24, Alk Phos / T
   Bili:83/0.3, LDH:127 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
 47 year old female PMH breast cancer who presents with bilateral
   lower extremity edema of 1 day duration, found to have pericardial
   effusion.
   .
   # Pericardial effusion: Drain placed on [**9-12**], fluid showed
   adenocarcinoma.  The drain was pulled on [**9-17**] after output decreased.
   Pt went to CT [**Doctor First Name **] for window procedure yesterday.  Pt has been in NSR
   since admission (with occ PVCs).  Fluid overload has improved since
   draining of effusion.
   - continue pleural drains for 24-48 hrs per [**Doctor First Name **] recs
   - Continue Indomethacin/dilaudid PO for pain control
   .
   # CORONARIES: CAD risk factors of HTN and smoking. Pleuritic chest pain
   does not support angina or ACS. No prior history of CAD.   Lisinopril
   restarted for hypertension at
 home dose.
   .
   # Breast Cancer: Pt has been non-compliant with onc f/u.  Patient's
   last appointment [**2115-1-30**] reports she is to continue Aromasin
   (aromotase inhibitor) which she is currently not taking.  We now have
   evidence of metastatic spread of her tumor with pleural effusion
   showing adenocarinoma and evidence of bony mets to the spine by CT.
   Also concern for malignant pleural effustions.  Appreciate oncology
   consult.
   -will obtain bone scan non-urgently
   -f/u onc recs
   .
   # Asthma: Significant wheezing on exam on admission, but has since
   improved. CXR reports atelectasis vs early pneumonia in the right
   middle lobe, but no evidence of infection and afebrile.  Also likely
   COPD given smoking history and lung volumes on CXR.
   - Continue Ipratropium NEBs standing; Albuterol NEBs prn
   - Continue outpatient singulair
   - If spikes or has leukocytosis consider CAP coverage, no antibiotics
   for now
   .
   # Depression/Insomnia: Continue outpatient trazadone 200 mg qhs.
   .
   # Constipation: bowel regimen uptitrated yesterday without effect.
   Will continue to to titrate to BM.
   .
   # Hyperkalemia: rising k, ? tumor lysis, will re-check K this
   afternoon.
   .
   # Social: Patient currently lives in rooming house. Reports stresses at
   home. Has not followed with medical care (multiple do not show
   appointments).  Appreciate SW consult.  Will f/u with social work
   today.
   ICU Care
   Nutrition:
   Glycemic Control:  n/a
   Lines:
   Arterial Line - [**2116-9-17**] 02:10 PM
   20 Gauge - [**2116-9-17**] 02:11 PM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: n/a
   VAP:
   Comments:
   Communication:  Comments: with wife and family
   Code status: full
   Disposition: CCU for now
   ------ Protected Section ------
   CCU ATTENDING PROGRESS NOTE
   I have reviewed the comprehensive Progress Note today by Dr. [**First Name (STitle) 3099**].  I
   concur with the history, physical, and assessment and plan as outline
   in the admission note.    My examination today is consistent with the
   documented examination.
   History:   Per Dr. [**First Name (STitle) 3099**]
s note.  The patient remains weak but her
   appetite is good.
   Physical Examination:   Per Dr. [**First Name (STitle) 3099**]
s note.
   Medical Decision Making:   Ms. [**Known lastname 8662**] is a 47 year old woman who has
   a history of breast cancer twice previously who presents with weight
   loss, peripheral edema, and cough/shortness of breath increasing over
   the last 2 months.  Her condition has worsened more recently with
   increasing cough.   An echocardiogram showed a large pericardial
   effusion with RV collapse.  Pericardiocentesis removed 500 of blood
   fluid consistent with an exudate and right heart catheterization after
   the procedure showed persistent elevations of her right heart pressures
   consistent with an effusive-constrictive etiology.
   The cytology has shown adenocarcinoma.
   She underwent a pericardial window with talc infiltration of the left
   pleural space.  She now has two chest tubes in place with active
   drainage.  Will continue with CT in place today.   She will remain in
   the CCU until the chest tubes have been removed.
   The total time of this visit was 40 minutes with over 50% of the time
   spent on coordination of care and discussions with the patient.
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**]  [**Pager number 8663**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2116-9-18**] 15:17 ------

2116-09-19 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -K improved by PM lytes
   -[**9-25**] f/u scheduled with heme/onc
   -touched base with SW and case manager-working on rehab vs home health
   nurse [**First Name (Titles) **] [**Last Name (Titles) **] anticipated monday.
   -will need to t/b with heme/onc in regards to final recs on dc.
   -started on topical miconazole out of concern for yeast infection.
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-9-18**] 11:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-9-19**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 104 (95 - 114) bpm
   BP: 86/59(64) {86/11(22) - 125/93(100)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                  1,280 mL
                                                                    300 mL
   PO:
                                                                    830 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    450 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                  1,115 mL
   Urine:
                                                                  1,550 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                   -815 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   281 K/uL
   13.7 g/dL
   140 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.4 mEq/L
   22 mg/dL
   104 mEq/L
   140 mEq/L
   41.3 %
   7.9 K/uL
        [image002.jpg]
                            [**2116-9-13**]  04:01 AM
                            [**2116-9-14**]  04:43 AM
                            [**2116-9-15**]  04:06 AM
                            [**2116-9-16**]  05:52 AM
                            [**2116-9-17**]  04:56 AM
                            [**2116-9-18**]  04:50 AM
                            [**2116-9-18**]  03:11 PM
                            [**2116-9-19**]  04:13 AM
   WBC
   7.0
   5.1
   5.4
   7.1
   8.2
   8.8
   9.5
   7.9
   Hct
   48.6
   43.7
   41.4
   45.9
   40.3
   39.3
   42.5
   41.3
   Plt
   247
   254
   265
   [**Telephone/Fax (3) 8751**]
   281
   281
   Cr
   0.8
   0.8
   0.8
   0.7
   0.8
   0.9
   0.7
   Glucose
   122
   112
   124
   125
   117
   130
   140
   Other labs: PT / PTT / INR:10.7/35.2/0.9, ALT / AST:16/24, Alk Phos / T
   Bili:83/0.3, LDH:127 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
 47 year old female PMH breast cancer who presents with bilateral
   lower extremity edema of 1 day duration, found to have pericardial
   effusion.
   .
   # Pericardial effusion: Drain placed on [**9-12**], fluid showed
   adenocarcinoma.  The drain was pulled on [**9-17**] after output decreased.
   Pt went to CT [**Doctor First Name **] for window procedure yesterday.  Pt has been in NSR
   since admission (with occ PVCs).  Fluid overload has improved since
   draining of effusion.
   - continue pleural drains for 24-48 hrs per [**Doctor First Name **] recs
   - Continue Indomethacin/dilaudid PO for pain control
   .
   # CORONARIES: CAD risk factors of HTN and smoking. Pleuritic chest pain
   does not support angina or ACS. No prior history of CAD.   Lisinopril
   restarted for hypertension at
 home dose.
   .
   # Breast Cancer: Pt has been non-compliant with onc f/u.  Patient's
   last appointment [**2115-1-30**] reports she is to continue Aromasin
   (aromotase inhibitor) which she is currently not taking.  We now have
   evidence of metastatic spread of her tumor with pleural effusion
   showing adenocarinoma and evidence of bony mets to the spine by CT.
   Also concern for malignant pleural effustions.  Appreciate oncology
   consult.
   -will obtain bone scan non-urgently
   -f/u onc recs
   .
   # Asthma: Significant wheezing on exam on admission, but has since
   improved. CXR reports atelectasis vs early pneumonia in the right
   middle lobe, but no evidence of infection and afebrile.  Also likely
   COPD given smoking history and lung volumes on CXR.
   - Continue Ipratropium NEBs standing; Albuterol NEBs prn
   - Continue outpatient singulair
   - If spikes or has leukocytosis consider CAP coverage, no antibiotics
   for now
   .
   # Depression/Insomnia: Continue outpatient trazadone 200 mg qhs.
   .
   # Constipation: bowel regimen uptitrated yesterday without effect.
   Will continue to to titrate to BM.
   .
   # Hyperkalemia: rising k, ? tumor lysis, will re-check K this
   afternoon.
   .
   # Social: Patient currently lives in rooming house. Reports stresses at
   home. Has not followed with medical care (multiple do not show
   appointments).  Appreciate SW consult.  Will f/u with social work today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2116-9-17**] 02:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2116-09-19 12:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: -[**9-25**] f/u scheduled with heme/onx
   -touched basew with SW and case manager regarding dc placement
   -started on topical miconazole out of concern for yeast infection
   24 Hour Events:
 ARTERIAL LINE - STOP [**2116-9-18**] 03:03 PM
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-9-19**] 08:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-9-19**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 105 (95 - 114) bpm
   BP: 106/73(80) {86/11(22) - 125/93(100)} mmHg
   RR: 20 (12 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
                  Total In:
                                                                  1,280 mL
                                                                    940 mL
   PO:
                                                                    830 mL
                                                                    940 mL
   TF:
   IVF:
                                                                    450 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                  1,490 mL
   Urine:
                                                                  1,550 mL
                                                                  1,475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   PHYSICAL EXAM
   GEN: lying comfortably in bed, NAD, sleepy
   HEENT: MMM
   CV: RRR, no MRG, no friction rub,
   PULM: CTAB anteriorly, no cough, breathing comfortably,  [**Doctor Last Name 279**] drain x1
   in place, 15 ccs drainage.
   ABD: soft, nondistended, no pain with palpation
   EXT: WWP 1+bilateral edema
   Labs / Radiology
   281 K/uL
   13.7 g/dL
   140 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.4 mEq/L
   22 mg/dL
   104 mEq/L
   140 mEq/L
   41.3 %
   7.9 K/uL
        [image002.jpg]
                            [**2116-9-13**]  04:01 AM
                            [**2116-9-14**]  04:43 AM
                            [**2116-9-15**]  04:06 AM
                            [**2116-9-16**]  05:52 AM
                            [**2116-9-17**]  04:56 AM
                            [**2116-9-18**]  04:50 AM
                            [**2116-9-18**]  03:11 PM
                            [**2116-9-19**]  04:13 AM
   WBC
   7.0
   5.1
   5.4
   7.1
   8.2
   8.8
   9.5
   7.9
   Hct
   48.6
   43.7
   41.4
   45.9
   40.3
   39.3
   42.5
   41.3
   Plt
   247
   254
   265
   [**Telephone/Fax (3) 8751**]
   281
   281
   Cr
   0.8
   0.8
   0.8
   0.7
   0.8
   0.9
   0.7
   Glucose
   122
   112
   124
   125
   117
   130
   140
   Other labs: PT / PTT / INR:10.7/35.2/0.9, ALT / AST:16/24, Alk Phos / T
   Bili:83/0.3, LDH:127 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
 47 year old female PMH breast cancer who presents with bilateral
   lower extremity edema of 1 day duration, found to have pericardial
   effusion.
   .
   # Pericardial effusion: Pericardial rain placed on [**9-12**], fluid showed
   adenocarcinoma.  The drain was pulled on [**9-17**] after output decreased,
   pt now s/p window procedure.  Pt has been in NSR since admission (with
   occ PVCs).  Fluid overload has improved since draining of effusion.
   Now with [**Doctor Last Name 279**] drain in pleural space.
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] recs, will likely dc [**Doctor Last Name 279**] today
   - Continue Indomethacin/dilaudid PO for pain control
   .
   # CORONARIES: CAD risk factors of HTN and smoking. Pleuritic chest pain
   does not support angina or ACS. No prior history of CAD.   Lisinopril
   restarted for hypertension at
 home dose.
   .
   # Breast Cancer: Pt has been non-compliant with onc f/u.  Patient's
   last appointment [**2115-1-30**] reports she is to continue Aromasin
   (aromotase inhibitor) which she is currently not taking.  We now have
   evidence of metastatic spread of her tumor with pleural effusion
   showing adenocarinoma and evidence of bony mets to the spine by CT.
   Also concern for malignant pleural effustions.  Appreciate oncology
   consult.
   -will obtain bone scan non-urgently
   -f/u onc recs, will re-consult in regards to prognosis and recs for
   discharge planning given her late stage disease, ? palliative care
   consult
   .
   # Asthma: Significant wheezing on exam on admission, but has since
   improved. CXR reports atelectasis vs early pneumonia in the right
   middle lobe, but no evidence of infection and afebrile.  Also likely
   COPD given smoking history and lung volumes on CXR.
   - Continue Ipratropium NEBs standing; Albuterol NEBs prn
   - Continue outpatient singulair
   - If spikes or has leukocytosis consider CAP coverage, no antibiotics
   for now
   .
   # Depression/Insomnia: Continue outpatient trazadone 200 mg qhs.
   .
   # Constipation: bowel regimen uptitrated yesterday without effect.
   Will continue to to titrate to BM.
   .
   # Hyperkalemia: improved as of last night.  Will continue to follow.
   .
   # Vaginal itch: likely yeast infection.  Improved with miconazole
   cream.  Continue topical tx.
   .
   # Social: Patient currently lives in rooming house. Reports stresses at
   home. Has not followed with medical care (multiple do not show
   appointments).  Appreciate SW consult.  Will f/u with on Monday in
   regards to dc options.
   ICU Care
   Nutrition: reg diet
   Glycemic Control:  n/a
   Lines:
   20 Gauge - [**2116-9-17**] 02:11 PM
   Prophylaxis:
   DVT: subcu heparin
   Stress ulcer: n/a
   VAP:
   Comments:
   Communication:  Comments: wife and family
   Code status: full
   Disposition: Call out to floor today, will dc once [**Doctor Last Name 279**] pulled and pt
   has good discharge plan, will likely need rehab

2116-09-20 08:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   surgery likely planning on waterseal for chest tube tonight, then cxr
   tomorrow am, then likely pull chest tube tomorrow
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-9-19**] 04:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-9-20**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 107 (93 - 112) bpm
   BP: 112/53(69) {92/53(65) - 133/109(113)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
                  Total In:
                                                                  1,140 mL
                                                                    480 mL
   PO:
                                                                  1,140 mL
                                                                    480 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    400 mL
   Urine:
                                                                  1,835 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -720 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   GEN: lying comfortably in bed, NAD, sleepy
   HEENT: MMM
   CV: RRR, no MRG, no friction rub, [**Doctor Last Name 279**] drain x2 in place
   PULM: CTAB anteriorly, no chough, breathing comfortably
   ABD: soft, somewhat distended, mild pain with palpation throughout
   EXT: WWP 1+bilateral edema
   Labs / Radiology
   344 K/uL
   13.6 g/dL
   133 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.4 mEq/L
   18 mg/dL
   102 mEq/L
   139 mEq/L
   40.4 %
   7.5 K/uL
        [image002.jpg]
                            [**2116-9-13**]  04:01 AM
                            [**2116-9-14**]  04:43 AM
                            [**2116-9-15**]  04:06 AM
                            [**2116-9-16**]  05:52 AM
                            [**2116-9-17**]  04:56 AM
                            [**2116-9-18**]  04:50 AM
                            [**2116-9-18**]  03:11 PM
                            [**2116-9-19**]  04:13 AM
                            [**2116-9-20**]  06:31 AM
   WBC
   7.0
   5.1
   5.4
   7.1
   8.2
   8.8
   9.5
   7.9
   7.5
   Hct
   48.6
   43.7
   41.4
   45.9
   40.3
   39.3
   42.5
   41.3
   40.4
   Plt
   247
   254
   265
   [**Telephone/Fax (3) 8751**]
   [**Telephone/Fax (3) 8779**]
   Cr
   0.8
   0.8
   0.8
   0.7
   0.8
   0.9
   0.7
   0.7
   Glucose
   122
   112
   124
   125
   117
   130
   140
   133
   Other labs: PT / PTT / INR:10.7/35.2/0.9, ALT / AST:16/24, Alk Phos / T
   Bili:83/0.3, LDH:127 IU/L, Ca++:9.3 mg/dL, Mg++:1.7 mg/dL, PO4:4.1
   mg/dL
   Imaging: CXR pending [**9-20**]
   Microbiology: [**9-17**] Pleural Fluid:
   [**2116-9-17**] 11:10 am PLEURAL FLUID
      GRAM STAIN (Final [**2116-9-17**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):    NO GROWTH.
      ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
   Assessment and Plan
 47 year old female PMH breast cancer who presents with bilateral
   lower extremity edema of 1 day duration, found to have pericardial
   effusion.
   .
   # Pericardial effusion: Drain placed on [**9-12**], fluid showed
   adenocarcinoma.  The drain was pulled on [**9-17**] after output decreased.
   Pt went to CT [**Doctor First Name **] for window procedure yesterday.  Pt has been in NSR
   since admission (with occ PVCs).  Fluid overload has improved since
   draining of effusion.
   - continue pleural drains for 24-48 hrs per [**Doctor First Name **] recs
   - Continue Indomethacin/dilaudid PO for pain control
   .
   # CORONARIES: CAD risk factors of HTN and smoking. Pleuritic chest pain
   does not support angina or ACS. No prior history of CAD.   Lisinopril
   restarted for hypertension at
 home dose.
   .
   # Breast Cancer: Pt has been non-compliant with onc f/u.  Patient's
   last appointment [**2115-1-30**] reports she is to continue Aromasin
   (aromotase inhibitor) which she is currently not taking.  We now have
   evidence of metastatic spread of her tumor with pleural effusion
   showing adenocarinoma and evidence of bony mets to the spine by CT.
   Also concern for malignant pleural effustions.  Appreciate oncology
   consult.
   -will obtain bone scan non-urgently
   -f/u onc recs
   .
   # Asthma: Significant wheezing on exam on admission, but has since
   improved. CXR reports atelectasis vs early pneumonia in the right
   middle lobe, but no evidence of infection and afebrile.  Also likely
   COPD given smoking history and lung volumes on CXR.
   - Continue Ipratropium NEBs standing; Albuterol NEBs prn
   - Continue outpatient singulair
   - If spikes or has leukocytosis consider CAP coverage, no antibiotics
   for now
   .
   # Depression/Insomnia: Continue outpatient trazadone 200 mg qhs.
   .
   # Constipation: bowel regimen uptitrated yesterday without effect.
   Will continue to to titrate to BM.
   .
   # Hyperkalemia: rising k, ? tumor lysis, will re-check K this
   afternoon.
   .
   # Social: Patient currently lives in rooming house. Reports stresses at
   home. Has not followed with medical care (multiple do not show
   appointments).  Appreciate SW consult.  Will f/u with social work
   today.
   ICU Care
   Nutrition:
   Glycemic Control:  n/a
   Lines:
   Arterial Line - [**2116-9-17**] 02:10 PM
   20 Gauge - [**2116-9-17**] 02:11 PM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: n/a
   VAP:
   Comments:
   Communication:  Comments: with wife and family
   Code status: full
   Disposition: CCU for now